US07902367B2
Step 35a) Methyl 2-[3-(tert-butoxycarbonylamino)piperidin-1-yl]benzoate
3-(tert-Butoxycarbonylamino)piperidine (7.07 g, 35.3 mmol) was dissolved in N,N-dimethylformamide (120 mL). To this solution, potassium carbonate (9.80 g, 70.9 mmol) and methyl 2-fluorobenzoate (5.0 mL, 39.2 mmol) were added and the mixture was stirred at 130° C. for 8 hours. Subsequently, the mixture was allowed to cool, diluted with ethyl acetate, and washed sequentially with water and brine. The washed product was dried over sodium sulfate and the solvent was evaporated. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=10:1->5:1) gave 2.34 g (20%) of the desired compound as a yellow oil.

reactant | 3-(tert-Butoxycarbonylamino)piperidine | 35.3 mmol, 7.07 g | C(C)(C)(C)OC(=O)NC1CNCCC1 | C10H20N2O2
reactant | potassium carbonate | 70.9 mmol, 9.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-fluorobenzoate | 39.2 mmol, 5.0 mL | FC1=C(C(=O)OC)C=CC=C1 | C8H7FO2
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-[3-(tert-butoxycarbonylamino)piperidin-1-yl]benzoate | 2.34 g, 20% | C(C)(C)(C)OC(=O)NC1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C18H26N2O4
